US06610688B2
Synthesis of 4-(3-Chloro-4-fluoro-phenylamino)-5-[3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-yl-methylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one (Formula 41)
A mixture of 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (70 mg, 0.25 mmol), 3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde (74.8 mg, 0.3 mmol) and piperidine (3 drops) in ethanol (2 mL) was stirred at room temperature for 4 days. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 102 mg (80%) of the title compound. 1H NMR (360 MHz, DMSO-d6) δ 13.27 (br s, 1H, NH), 11.66 (br s, 1H, NH), 9.12 (br s, 1H), 8.29 (s, 1H), 7.71 (m, 1H), 7.40 (m, 1H), 7.31-7.36 (m, 2H), 3.43 (m, 4H, 2×CH2), 2.30 (s, 3H, CH3), 2.27 (m, 4H, 2×CH2), 2.18 (s, 3H, CH3), 2.12 (s, 3H, CH3). MS 510 [M++1].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.25 mmol, 70 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
reactant | 3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.3 mmol, 74.8 mg | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=O | C13H19N3O2
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(3-Chloro-4-fluoro-phenylamino)-5-[3,5-dimethyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-yl-methylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one | 102 mg, 80% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC=2NC(=C(C2C)C(=O)N2CCN(CC2)C)C)=O | C25H25ClFN7O2
